*****************==== 17-Stage CMOS RO ====*******************
*********** Benchmarking Implementation of BSIM4 by Jane Xi 11/05/2002.
***************** current measurement improved by setting xmuext
* (exec-spice "ngspice %s" t)

vdd 1 0 2.0
mp1 3 2 1 1 p1 l=0.1u w=10u ad=5p pd=6u as=5p ps=6u
mn1 3 2 0 0 n1 l=0.1u w=5u ad=5p pd=6u as=5p ps=6u
mp2 4 3 1 1 p1 l=0.1u w=10u ad=5p pd=6u as=5p ps=6u
mn2 4 3 0 0 n1 l=0.1u w=5u ad=5p pd=6u as=5p ps=6u
mp3 5 4 1 1 p1 l=0.1u w=10u ad=5p pd=6u as=5p ps=6u
mn3 5 4 0 0 n1 l=0.1u w=5u ad=5p pd=6u as=5p ps=6u
mp4 6 5 1 1 p1 l=0.1u w=10u ad=5p pd=6u as=5p ps=6u
mn4 6 5 0 0 n1 l=0.1u w=5u ad=5p pd=6u as=5p ps=6u
mp5 7 6 1 1 p1 l=0.1u w=10u ad=5p pd=6u as=5p ps=6u
mn5 7 6 0 0 n1 l=0.1u w=5u ad=5p pd=6u as=5p ps=6u
mp6 8 7 1 1 p1 l=0.1u w=10u ad=5p pd=6u as=5p ps=6u
mn6 8 7 0 0 n1 l=0.1u w=5u ad=5p pd=6u as=5p ps=6u
mp7 9 8 1 1 p1 l=0.1u w=10u ad=5p pd=6u as=5p ps=6u
mn7 9 8 0 0 n1 l=0.1u w=5u ad=5p pd=6u as=5p ps=6u
mp8 10 9 1 1 p1 l=0.1u w=10u ad=5p pd=6u as=5p ps=6u
mn8 10 9 0 0 n1 l=0.1u w=5u ad=5p pd=6u as=5p ps=6u
mp9 11 10 1 1 p1 l=0.1u w=10u ad=5p pd=6u as=5p ps=6u
mn9 11 10 0 0 n1 l=0.1u w=5u ad=5p pd=6u as=5p ps=6u
mp10 12 11 1 1 p1 l=0.1u w=10u ad=5p pd=6u as=5p ps=6u
mn10 12 11 0 0 n1 l=0.1u w=5u ad=5p pd=6u as=5p ps=6u

mp11 13 12 1 1 p1 l=0.1u w=10u ad=5p pd=6u as=5p ps=6u
mn11 13 12 0 0 n1 l=0.1u w=5u ad=5p pd=6u as=5p ps=6u
mp12 14 13 1 1 p1 l=0.1u w=10u ad=5p pd=6u as=5p ps=6u
mn12 14 13 0 0 n1 l=0.1u w=5u ad=5p pd=6u as=5p ps=6u
mp13 15 14 1 1 p1 l=0.1u w=10u ad=5p pd=6u as=5p ps=6u
mn13 15 14 0 0 n1 l=0.1u w=5u ad=5p pd=6u as=5p ps=6u
mp14 16 15 1 1 p1 l=0.1u w=10u ad=5p pd=6u as=5p ps=6u
mn14 16 15 0 0 n1 l=0.1u w=5u ad=5p pd=6u as=5p ps=6u
mp15 17 16 1 1 p1 l=0.1u w=10u ad=5p pd=6u as=5p ps=6u
mn15 17 16 0 0 n1 l=0.1u w=5u ad=5p pd=6u as=5p ps=6u
mp16 18 17 1 1 p1 l=0.1u w=10u ad=5p pd=6u as=5p ps=6u
mn16 18 17 0 0 n1 l=0.1u w=5u ad=5p pd=6u as=5p ps=6u
mp17 2  18 1 1 p1 l=0.1u w=10u ad=5p pd=6u as=5p ps=6u
mn17 2  18 0 0 n1 l=0.1u w=5u ad=5p pd=6u as=5p ps=6u
c1 18 0 .1p

*.ic v(2)=1.0 v(3)=1.0 v(4)=1.0
*.ic v(2)=2.0 v(3)=0.0 v(4)=2.0
*.ic v(2)=2.0 v(3)=0.0 v(4)=2.0 v(5)=0.0 v(6)=2.0
*.ic v(7)=0.0 v(8)=2.0 v(9)=0.0 v(10)=2.0 v(11)=0.0 v(12)=2.0
*.ic v(13)=0.0 v(14)=2.0 v(15)=0.0 v(16)=2.0 v(17)=0.0 v(18)=2.0
*.ic V(10)=5 v(2)=5 v(3)=5 v(4)=5 v(5)=5 v(6)=5

*.ic v(18)=1
.tran .1ns 150ns uic
*.print tran v(5)

.control
*reduce current ringing
set xmu=0.49
* option xmu possible too ? and .option and ... ???
set num_threads=4
set noinit
run
* current and output in a single plot
plot v(18) 1000*(-I(vdd)) ylimit -1 6
.endc

* Short channel models from CMOS Circuit Design, Layout, and Simulation,
* 50nm BSIM4 models VDD=1V, see CMOSedu.com
*
.model  N1  nmos  level = 54 version = 4.5.0
+binunit = 1            paramchk= 1            mobmod  = 0
+capmod  = 2            igcmod  = 1            igbmod  = 1            geomod  = 0
+diomod  = 1            rdsmod  = 0            rbodymod= 1            rgatemod= 1
+permod  = 1            acnqsmod= 0            trnqsmod= 0
+tnom    = 27           toxe    = 1.4e-009     toxp    = 7e-010       toxm    = 1.4e-009
+epsrox  = 3.9          wint    = 5e-009       lint    = 1.2e-008
+ll      = 0            wl      = 0            lln     = 1            wln     = 1
+lw      = 0            ww      = 0            lwn     = 1            wwn     = 1
+lwl     = 0            wwl     = 0            xpart   = 0            toxref  = 1.4e-009
+vth0    = 0.22         k1      = 0.35         k2      = 0.05         k3      = 0
+k3b     = 0            w0      = 2.5e-006     dvt0    = 2.8          dvt1    = 0.52
+dvt2    = -0.032       dvt0w   = 0            dvt1w   = 0            dvt2w   = 0
+dsub    = 2            minv    = 0.05         voffl   = 0            dvtp0   = 1e-007
+dvtp1   = 0.05         lpe0    = 5.75e-008    lpeb    = 2.3e-010     xj      = 2e-008
+ngate   = 5e+020       ndep    = 2.8e+018     nsd     = 1e+020       phin    = 0
+cdsc    = 0.0002       cdscb   = 0            cdscd   = 0            cit     = 0
+voff    = -0.15        nfactor = 1.2          eta0    = 0.15         etab    = 0
+vfb     = -0.55        u0      = 0.032        ua      = 1.6e-010     ub      = 1.1e-017
+uc      = -3e-011      vsat    = 1.1e+005     a0      = 2            ags     = 1e-020
+a1      = 0            a2      = 1            b0      = -1e-020      b1      = 0
+keta    = 0.04         dwg     = 0            dwb     = 0            pclm    = 0.18
+pdiblc1 = 0.028        pdiblc2 = 0.022        pdiblcb = -0.005       drout   = 0.45
+pvag    = 1e-020       delta   = 0.01         pscbe1  = 8.14e+008    pscbe2  = 1e-007
+fprout  = 0.2          pdits   = 0.2          pditsd  = 0.23         pditsl  = 2.3e+006
+rsh     = 3            rdsw    = 150          rsw     = 150          rdw     = 150
+rdswmin = 0            rdwmin  = 0            rswmin  = 0            prwg    = 0
+prwb    = 6.8e-011     wr      = 1            alpha0  = 0.074        alpha1  = 0.005
+beta0   = 30           agidl   = 0.0002       bgidl   = 2.1e+009     cgidl   = 0.0002
+egidl   = 0.8
+aigbacc = 0.012        bigbacc = 0.0028       cigbacc = 0.002
+nigbacc = 1            aigbinv = 0.014        bigbinv = 0.004        cigbinv = 0.004
+eigbinv = 1.1          nigbinv = 3            aigc    = 0.017        bigc    = 0.0028
+cigc    = 0.002        aigsd   = 0.017        bigsd   = 0.0028       cigsd   = 0.002
+nigc    = 1            poxedge = 1            pigcd   = 1            ntox    = 1
+xrcrg1  = 12           xrcrg2  = 5
+cgso    = 6.238e-010   cgdo    = 6.238e-010   cgbo    = 2.56e-011    cgdl    = 2.495e-10
+cgsl    = 2.495e-10    ckappas = 0.02         ckappad = 0.02         acde    = 1
+moin    = 15           noff    = 0.9          voffcv  = 0.02
+kt1     = -0.21        kt1l    = 0.0           kt2     = -0.042        ute     = -1.5
+ua1     = 1e-009       ub1     = -3.5e-019     uc1     = 0             prt     = 0
+at      = 53000
+fnoimod = 1            tnoimod = 0
+jss     = 0.0001       jsws    = 1e-011       jswgs   = 1e-010       njs     = 1
+ijthsfwd= 0.01         ijthsrev= 0.001        bvs     = 10           xjbvs   = 1
+jsd     = 0.0001       jswd    = 1e-011       jswgd   = 1e-010       njd     = 1
+ijthdfwd= 0.01         ijthdrev= 0.001        bvd     = 10           xjbvd   = 1
+pbs     = 1            cjs     = 0.0005       mjs     = 0.5          pbsws   = 1
+cjsws   = 5e-010       mjsws   = 0.33         pbswgs  = 1            cjswgs  = 5e-010
+mjswgs  = 0.33         pbd     = 1            cjd     = 0.0005       mjd     = 0.5
+pbswd   = 1            cjswd   = 5e-010       mjswd   = 0.33         pbswgd  = 1
+cjswgd  = 5e-010       mjswgd  = 0.33         tpb     = 0.005        tcj     = 0.001
+tpbsw   = 0.005        tcjsw   = 0.001        tpbswg  = 0.005        tcjswg  = 0.001
+xtis    = 3            xtid    = 3
+dmcg    = 0e-006       dmci    = 0e-006       dmdg    = 0e-006       dmcgt   = 0e-007
+dwj     = 0e-008     	xgw     = 0e-007       xgl     = 0e-008
+rshg    = 0.4          gbmin   = 1e-010       rbpb    = 5            rbpd    = 15
+rbps    = 15           rbdb    = 15           rbsb    = 15           ngcon   = 1
*
.model  P1  pmos  level = 54 version = 4.5.0
+binunit = 1            paramchk= 1            mobmod  = 0
+capmod  = 2            igcmod  = 1            igbmod  = 1            geomod  = 0
+diomod  = 1            rdsmod  = 0            rbodymod= 1            rgatemod= 1
+permod  = 1            acnqsmod= 0            trnqsmod= 0
+tnom    = 27           toxe    = 1.4e-009     toxp    = 7e-010       toxm    = 1.4e-009
+epsrox  = 3.9          wint    = 5e-009       lint    = 1.2e-008
+ll      = 0            wl      = 0            lln     = 1            wln     = 1
+lw      = 0            ww      = 0            lwn     = 1            wwn     = 1
+lwl     = 0            wwl     = 0            xpart   = 0            toxref  = 1.4e-009
+vth0    = -0.22        k1      = 0.39         k2      = 0.05         k3      = 0
+k3b     = 0            w0      = 2.5e-006     dvt0    = 3.9          dvt1    = 0.635
+dvt2    = -0.032       dvt0w   = 0            dvt1w   = 0            dvt2w   = 0
+dsub    = 0.7          minv    = 0.05         voffl   = 0            dvtp0   = 0.5e-008
+dvtp1   = 0.05         lpe0    = 5.75e-008    lpeb    = 2.3e-010     xj      = 2e-008
+ngate   = 5e+020       ndep    = 2.8e+018     nsd     = 1e+020       phin    = 0
+cdsc    = 0.000258     cdscb   = 0            cdscd   = 6.1e-008     cit     = 0
+voff    = -0.15        nfactor = 2            eta0    = 0.15         etab    = 0
+vfb     = 0.55         u0      = 0.0095       ua      = 1.6e-009     ub      = 8e-018
+uc      = 4.6e-013     vsat    = 90000        a0      = 1.2          ags     = 1e-020
+a1      = 0            a2      = 1            b0      = -1e-020      b1      = 0
+keta    = -0.047       dwg     = 0            dwb     = 0            pclm    = 0.55
+pdiblc1 = 0.03         pdiblc2 = 0.0055       pdiblcb = 3.4e-008     drout   = 0.56
+pvag    = 1e-020       delta   = 0.014        pscbe1  = 8.14e+008    pscbe2  = 9.58e-007
+fprout  = 0.2          pdits   = 0.2          pditsd  = 0.23         pditsl  = 2.3e+006
+rsh     = 3            rdsw    = 250          rsw     = 160          rdw     = 160
+rdswmin = 0            rdwmin  = 0            rswmin  = 0            prwg    = 3.22e-008
+prwb    = 6.8e-011     wr      = 1            alpha0  = 0.074        alpha1  = 0.005
+beta0   = 30           agidl   = 0.0002       bgidl   = 2.1e+009     cgidl   = 0.0002
+egidl   = 0.8
+aigbacc = 0.012        bigbacc = 0.0028       cigbacc = 0.002
+nigbacc = 1            aigbinv = 0.014        bigbinv = 0.004        cigbinv = 0.004
+eigbinv = 1.1          nigbinv = 3            aigc    = 0.69         bigc    = 0.0012
+cigc    = 0.0008       aigsd   = 0.0087       bigsd   = 0.0012       cigsd   = 0.0008
+nigc    = 1            poxedge = 1            pigcd   = 1            ntox    = 1
+xrcrg1  = 12           xrcrg2  = 5
+cgso    = 7.43e-010    cgdo    = 7.43e-010    cgbo    = 2.56e-011    cgdl    = 1e-014
+cgsl    = 1e-014       ckappas = 0.5          ckappad = 0.5          acde    = 1
+moin    = 15           noff    = 0.9          voffcv  = 0.02
+kt1     = -0.19        kt1l    = 0            kt2     = -0.052        ute     = -1.5
+ua1     = -1e-009      ub1     = 2e-018       uc1     = 0             prt     = 0
+at      = 33000
+fnoimod = 1            tnoimod = 0
+jss     = 0.0001       jsws    = 1e-011       jswgs   = 1e-010       njs     = 1
+ijthsfwd= 0.01         ijthsrev= 0.001        bvs     = 10           xjbvs   = 1
+jsd     = 0.0001       jswd    = 1e-011       jswgd   = 1e-010       njd     = 1
+ijthdfwd= 0.01         ijthdrev= 0.001        bvd     = 10           xjbvd   = 1
+pbs     = 1            cjs     = 0.0005       mjs     = 0.5          pbsws   = 1
+cjsws   = 5e-010       mjsws   = 0.33         pbswgs  = 1            cjswgs  = 5e-010
+mjswgs  = 0.33         pbd     = 1            cjd     = 0.0005       mjd     = 0.5
+pbswd   = 1            cjswd   = 5e-010       mjswd   = 0.33         pbswgd  = 1
+cjswgd  = 5e-010       mjswgd  = 0.33         tpb     = 0.005        tcj     = 0.001
+tpbsw   = 0.005        tcjsw   = 0.001        tpbswg  = 0.005        tcjswg  = 0.001
+xtis    = 3            xtid    = 3
+dmcg    = 0e-006       dmci    = 0e-006       dmdg    = 0e-006       dmcgt   = 0e-007
+dwj     = 0e-008     	xgw     = 0e-007       xgl     = 0e-008
+rshg    = 0.4          gbmin   = 1e-010       rbpb    = 5            rbpd    = 15
+rbps    = 15           rbdb    = 15           rbsb    = 15           ngcon   = 1

.end


.end
